* source USB_AUDIO
E_U1         N00826 0 VALUE {LIMIT(V(0,N00744)*1E6,-15V,+15V)}
E_U2         N00779 0 VALUE {LIMIT(V(0,N00737)*1E6,-15V,+15V)}
E_U3         N00917 0 VALUE {LIMIT(V(N00903,N00912)*1E6,-15V,+15V)}
R_R1         N00744 N00826  620 TC=0,0 
R_R2         N00737 N00779  620 TC=0,0 
R_R3         N00813 N00912  620 TC=0,0 
R_R4         0 N00886  620 TC=0,0 
R_R5         N00886 N00903  620 TC=0,0 
R_R6         N00779 N00813  680 TC=0,0 
R_R7         N00826 N00886  680 TC=0,0 
C_C1         N00744 N00826  2.2n  TC=0,0 
C_C2         N00737 N00779  2.2n  TC=0,0 
R_R9         N00813 N00917  620 TC=0,0 
C_C3         N00886 N00813  6.8n  TC=0,0 
C_C5         N00912 N00917  2.2n  TC=0,0 
C_C4         0 N00903  2.2n  TC=0,0 
R_R10         N00917 N074000  150 TC=0,0 
R_R11         0 N074000  16 TC=0,0 
I_I2         N00737 0 DC 0Adc AC 2mAac
+SIN 0 2m 1k 0 0 0
I_I3         N00744 0 DC 0Adc AC 2mAac
+SIN 0 2m 1k 0 0 0
